US09359371B2
In the mixture of water (5 mL), ethanol (5 mL) and THF (15 mL) were dissolved ethyl 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylate (1.5 g, 3.9 mmol) and sodium hydroxide (260 mg, 6.5 mmol). The reaction was conducted at ambient temperature for 5 h. The solvent was removed by evaporation, followed by addition of water and washing with DCM. The aqueous phase was adjusted to a pH of 2 with dilute hydrochloric acid, and extracted with DCM. The organic phase was dried over sodium sulfate and concentrated to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid as a faint yellow solid (580 mg, 41.5% yield).

reactant | water | 5 mL | O | H2O
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | ethyl 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylate | 3.9 mmol, 1.5 g | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)F)C(=O)OCC | C20H23FN4O3
reactant | sodium hydroxide | 6.5 mmol, 260 mg | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid | 580 mg, 41.5% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)F)C(=O)O | C18H19FN4O3
